US06498159B1
A mixture of 5.8 g 3-trifluoromethyl-p-anisaldehyde, 8.6 ml formamide, and 13.6 ml formic acid was stirred at 130° C. for 9 hr. After cooling, water and ethyl acetate were added thereto. The ethyl acetate layer was recovered and washed with brine. It was dried over anhydrous magnesium sulfate, filtered, and evaporated. The resulting residue was purified by silica gel column chromatography to give 3.8 g of N-[4-methoxy-3-(trifluoromethyl)benzyl]formamide.

reactant | 3-trifluoromethyl-p-anisaldehyde | 5.8 g | FC(C=1C=C(C=O)C=CC1OC)(F)F | C9H7F3O2
reactant | formamide | 8.6 ml | C(=O)N | CH3NO
reactant | formic acid | 13.6 ml | C(=O)O | CH2O2
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[4-methoxy-3-(trifluoromethyl)benzyl]formamide | 3.8 g | COC1=C(C=C(CNC=O)C=C1)C(F)(F)F | C10H10F3NO2
